US08022205B2
4-(Tert-butoxycarbonylamino-methyl)-benzoic acid was reacted with WSCI, HOBt, triethylamine and N-methylpiperazine in dichloromethane, to obtain a crude product of [4-(4-methyl-piperazine-1-carbonyl)-benzyl]-carbamic acid tert-butyl ester, and then treated with TFA, to obtain (4-aminomethyl-phenyl)-(4-methyl-piperazin-1-yl)-methanone. Using bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (100 mg) and (4-aminomethyl-phenyl)-(4-methyl-piperazin-1-yl)-methanone (159 mg) instead of 4-(4-ethyl-piperazin-1-yl)-2,6-difluoro-phenylamine used in Step D in Example 1-D-18, in the same manner as Step D in Example 1-D-18, a crude product of 4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid 4-(4-methyl-piperazine-1-carbonyl)-benzylamide was obtained, and then the PMB groups were removed according to the above Deprotection method 3, to obtain the desired compound (D-293) as a colorless powder (64 mg, 62%).

reactant | 4-(Tert-butoxycarbonylamino-methyl)-benzoic acid | C(C)(C)(C)OC(=O)NCC1=CC=C(C(=O)O)C=C1 | C13H17NO4
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | [4-(4-methyl-piperazine-1-carbonyl)-benzyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C(=O)N1CCN(CC1)C)=O | C18H27N3O3
